US08471005B2
3-{3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one was prepared from 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1052a. Product isolated as a brown foam (61 mg, 45%). LCMS (m/e) 443 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.69 (s, 1H), 7.97-7.89 (m, 1H), 7.70 (d, 1H, J=8.1 Hz), 7.45-7.36 (m, 2H), 7.25-7.17 (m, 1H), 7.15-7.08 (m, 1H), 7.05 (d, 1H, J=8.3 Hz), 7.00 (d, 1H, J=4.6 Hz), 6.96 (d, 1H, J=7.6 Hz), 6.89 (s, 1H), 6.83 (d, 1H, J=4.6 Hz), 3.84 (s, 3H), 3.73-3.64 (m, 1H), 3.63 (s, 1H), 3.26-3.17 (m, 1H), 3.03-2.94 (m, 1H), 2.99 (s, 3H), 2.69-2.58 (m, 1H), 2.09 (s, 3H).

reactant | 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC=1C=C(C=CC1)C1C(N(CCN1C)C)=O | C12H17N3O
product | 3-{3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)C2C(N(CCN2C)C)=O | C25H26N6O2
